US05958910
A solution of 0.72 g of N-[4-(3-bromo-phenyl)-thiazol-2-yl]-4-methyl-benzenesulfonamide and 0.6 ml of ethyldiisopropylamine in 10 ml of methylene chloride was cooled to 0° C. and, after the addition of 0.13 ml of chloromethyl methyl ether, stirred at 0° C. for 2 h. Thereafter, the mixture was treated with 40 ml of water and extracted with methylene chloride. The organic phase was dried with magnesium sulphate and concentrated. After chromatography on 60 g of Kieselgel 60 with ethyl acetate/hexane (1:3) as the eluent the product-containing fractions were concentrated. 0.64 g of colorless N-[4-(3-bromo-phenyl)-thiazol-2-yl]-N-methoxymethyl-4-methyl-benzenesulfonamide, obtained in amorphous form, was processed without further purification.

reactant | N-[4-(3-bromo-phenyl)-thiazol-2-yl]-4-methyl-benzenesulfonamide | 0.72 g | BrC=1C=C(C=CC1)C=1N=C(SC1)NS(=O)(=O)C1=CC=C(C=C1)C | C16H13BrN2O2S2
reactant | ethyldiisopropylamine | 0.6 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | chloromethyl methyl ether | 0.13 ml | COCCl | C2H5ClO
reactant | water | 40 ml | O | H2O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-[4-(3-bromo-phenyl)-thiazol-2-yl]-N-methoxymethyl-4-methyl-benzenesulfonamide | 0.64 g | BrC=1C=C(C=CC1)C=1N=C(SC1)N(S(=O)(=O)C1=CC=C(C=C1)C)COC | C18H17BrN2O3S2
